data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C(C[C:20](=[OH+:21])C3=CC=C(C=C3)OC)C(=[O:10])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O>>CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C3C[C:20]([O+:10]=C3C)(C4=CC=C(C=C4)OC)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CN(C)C=O 10=20;20,21=21
[H:20][Br:21].N(=O)[O-:10].C1=CN=C(C(=C1)N)Cl.O.[Na+]>>[H:20][O:10]N=O.[Br-:21].C1=CN=C(C(=C1)N)Cl.O.[Na+] 10=20;20,21=21
[H:20][O+:21](C)P(N1C=NN=N1)(OC)OC.C[NH:10]C>>COP(N1C=NN=N1)(OC)[O:21]C.[H:20][NH+:10](C)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CO1)Br.[Br-:10]>>[H:20][Br:10].C1=CO[C:21](=[CH:22]1)Br 10=20;20,21=21,22
[H:20][OH:21].CC(C[N+](=O)[O-])[O-:10]>>[H:20][O:10]C(C)C[N+](=O)[O-].[OH-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.CC[NH+]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=[O:10])CC4.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CC.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1=NC(=O)C(C(=[N:10]1)O)([N+](=O)[O-])[N+](=O)[O-].O>>[H:20][N+:10]1=C(C(C(=O)N=C1C)([N+](=O)[O-])[N+](=O)[O-])O.OS(=O)(=O)[O-:21].O 10=20;20,21=21
C[Si](C)(C)C[CH:11]=[CH:10]COCC[CH2+:20]>>C[Si](C)(C)C[CH+:11][CH:10]1[CH2:20]CCOC1 10,11=10,20
CCCCCC1CCC[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCCCC1CCC[CH:20]2C1OC(=[O+:10]2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)S(=O)(=O)O 10,11=10,20
[H:20][O+:21](CC)C(C)N(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)N(C)C 10=20;20,21=21
CCC[Al:20](CC(C)C)CC(C)C.C1=CC=C(C=C1)C=CC(C2=CC=CC=C2)[O-:10].[Li+]>>CCC[Al-:20](CC(C)C)(CC(C)C)[O:10]C(C=CC1=CC=CC=C1)C2=CC=CC=C2.[Li+] 10=20,
CCO[C:11]1=[CH:10]C=C(C=C1Br)Br.[Br:20][Br:21]>>CCO[C+:11]1[CH:10](C=C(C=C1Br)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
C[O+:21]([Si](C)(C)C)[Cl:20].C[Si](C)(C)C=[C:11]=[CH2:10]>>C[O:21][Si](C)(C)C.C[Si](C)(C)C=[C+:11][CH2:10][Cl:20] 10,11=10,20;20,21=21
CCCCCC1=C[C:11](=[CH:10]C(=C1)O)[OH:12].CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=C[C:11](=[OH+:12])[CH:10](C(=C1)O)[CH2:20]C=C(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20;12=11
CCCC(C)[OH:10].C1[CH2:20][S+:21]1CCCl.[Cl-]>>CCCC(C)[OH+:10][CH2:20]C[S:21]CCCl.[Cl-] 10=20;20,21=21
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC3CCC4(C(C3(C)C)CCC5C46CCC(C(C5)C6)O)C)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC3CCC4(C(C3(C)C)CCC5C46CCC(C(C5)C6)O)C.CC(=O)O 10,11=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)NC(=O)CC)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
[H:10][C:11]1(CCC(CC1CCC)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCC)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[C:10](C)(CCC1=CC=CC=C1)[OH2+:11].[O-]S(=O)(=O)F>>C[C+:10](C)CCC1=CC=CC=C1.[OH2:11].[O-]S(=O)(=O)F 10,11=11
[H:20][O+:21](CC)C(CCC(=O)NC)(O)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CCC(=O)NC)(O)OC 10=20;20,21=21
[H:20][Cl:21].[P:10](Cl)(Cl)Cl>>[H:20][P+:10](Cl)(Cl)Cl.[Cl-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1C2=CC=CC=C2)C3=CC=CC=C3)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C2=CC=CC=C2)C3=CC=CC=C3.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC1=CC2=C(O1)CC(C2=[C:20]=[O:21])(C)C.C1=CC=C(C=C1)C[OH:10].CC1=CC(=NC(=C1)C)C.N#N>>CC1=CC2=C(O1)CC(C2=[C:20]([O-:21])[OH+:10]CC3=CC=CC=C3)(C)C.CC1=CC(=NC(=C1)C)C.N#N 10=20;20,21=21
C[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1.[N+:20](=O)=[O:21]>>C[C+:11]1C=CC2=C([CH:10]1[N+:20](=O)[O-:21])C=CC=C2 10,11=10,20;20,21=21
CC1(OC(C(O1)C(C(O)SC)OCC2=CC=CC=C2)C([CH:20]=[S+:21]C)OCC3=CC=CC=C3)C.[OH2:10].C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-]>>CC1(OC(C(O1)C(C(O)SC)OCC2=CC=CC=C2)C([CH:20]([OH2+:10])[S:21]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][NH+:21](CC=C)C(C(CCC1=CC=CC=C1)O)O.C=CC[NH2:10].B(C=CC1=CC=CC=C1)(O)O>>[H:20][NH2+:10]CC=C.C=CC[NH:21]C(C(CCC1=CC=CC=C1)O)O.B(C=CC1=CC=CC=C1)(O)O 10=20;20,21=21
[H:20][N+:21](=C1C2=C(CS1)C=CC=C2)C.C1C2=C(C=CC=C2)C(=[NH:10])S1.[I-]>>[H:20][NH+:10]=C1C2=C(CS1)C=CC=C2.C[N:21]=C1C2=C(CS1)C=CC=C2.[I-] 10=20;20,21=21
CC(C)O[P:20]([O-:10])(OCC(C(=O)OC)NC)(OC(C)C)[F:21]>>CC(C)O[P:20](=[O:10])(OCC(C(=O)OC)NC)OC(C)C.[F-:21] 10=20;20,21=21
CC[CH:20]1C([Br+:21]1)C.[OH2:10]>>CC[CH:20](C(C)[Br:21])[OH2+:10] 10=20;20,21=21
[H:20][OH+:21]C1(CCC(C1Br)CC)C.[OH2:10]>>[H:20][OH2+:10].CCC1CCC(C1Br)(C)[OH:21] 10=20;20,21=21
CC(C)(C)[Si](C)(C)OC1CC(OC(C1)CC(CC=C)[OH:10])CC2=C(C(=CC=C2)OC)[C:20](=[O:21])OC(=[NH+]C3CCCCC3)NC4CCCCC4.CN(C)C1=CC=NC=C1>>CC(C)(C)[Si](C)(C)OC1CC2CC([OH+:10][C:20](C3=C(CC(C1)O2)C=CC=C3OC)([O-:21])OC(=[NH+]C4CCCCC4)NC5CCCCC5)CC=C.CN(C)C1=CC=NC=C1 10=20;20,21=21
CCCC1C(CC(CC(C[CH:10](CC1CC)[O:11]S(=O)(=O)C2=CC=C(C=C2)C)C3CCCCC3)C4CCCC4)CC>>CCCC1C(C[CH+:10]CC(CC(CC1CC)C2CCCC2)C3CCCCC3)CC.CC1=CC=C(C=C1)S(=O)(=O)[O-:11] 10,11=11
